US07384934B2
5-Cyclopropyl-2-(5-fluoro-2-nitro-phenylamino)-benzonitrile
Heat a solution of 2-amino-5-cyclopropyl-benzonitrile (0.980 g, 6.16 mmol) with 2,4-difluoro-1-nitro-benzene (0.676 g, 6.16 mmol) and lithium hydroxide monohydrate (0.517 g, 12.33 mmol) in DMSO (12 ml) to 55° C. for 18 hours. Cool the reaction to ambient temperature and then add approximately 150 ml of ice water and stir the mixture for one hour. Precipitate the title compound and collect by filtration. Purify the solid via flash chromatography eluting with a linear gradient starting with 100% hexanes and going to 70% hexanes: 30% ethyl acetate to obtain 0.452 g (1.52 mmol, 25% yield) of the title compound as a yellow amorphous solid: Mass Spectrum (m/e): 298 (M+1).

reactant | 2-amino-5-cyclopropyl-benzonitrile | 6.16 mmol, 0.980 g | NC1=C(C#N)C=C(C=C1)C1CC1 | C10H10N2
reactant | 2,4-difluoro-1-nitro-benzene | 6.16 mmol, 0.676 g | FC1=C(C=CC(=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | lithium hydroxide monohydrate | 12.33 mmol, 0.517 g | O.[OH-].[Li+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMSO | 12 ml | CS(=O)C | C2H6OS
product | 5-Cyclopropyl-2-(5-fluoro-2-nitro-phenylamino)-benzonitrile | 1.52 mmol, 0.452 g, 25% yield | C1(CC1)C=1C=CC(=C(C#N)C1)NC1=C(C=CC(=C1)F)[N+](=O)[O-] | C16H12FN3O2
